US06140100
To a 1 L 3-necked flask equipped with a thermometer and a magnetic stirrer were added 4.90 g of L-glutamic acid γ-methyl ester (Sigma) and 200 mL of water. The solution was heated to 60° C., treated with 6.40 g of NaHCO3 followed by 5.20 mL of benzyl chloroformate (Aldrich) and allowed to cool to RT with vigorous stirring. After 4 h the reaction mixture was extracted with ethyl ether (4×100 mL) and the ether extracts were discarded. The aqueous solution was acidified to a congo red endpoint by addition of concentrated HCl. An oily emulsion resulted which was extracted with CH2Cl2 (4×60 mL). The combined organic extracts were washed with 0.05 N aqueous HCl (2×60 mL), dried over anhydrous Na2SO4 and concentrated in vacuo to afford 8.23 g (92%) of N-((benzyloxy)carbonyl)-5-O-methyl-L-glutamic acid as a white crystalline solid, m.p. 61-63° C.

reactant | L-glutamic acid γ-methyl ester | 4.90 g | COC(=O)CC[C@@H](C(=O)O)N | C6H11NO4
reactant | NaHCO3 | 6.40 g | C(=O)(O)[O-].[Na+]
reactant | benzyl chloroformate | 5.20 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | water | 200 mL | O | H2O
product | N-((benzyloxy)carbonyl)-5-O-methyl-L-glutamic acid | 8.23 g, 92% | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCC(=O)OC)C(=O)O | C14H17NO6
